US08835631B2
(4) Synthesis of 1-[5-(tert-butyldimethylsilanyloxymethyl)pyridin-2-yl]cyclopropylamine
5-(tert-Butyldimethylsilanyloxymethyl)-pyridine-2-carbonitrile was dissolved in tetrahydrofuran (10 ml), titanium tetraisopropoxide (0.62 ml) was added thereto, and a solution of ethylmagnesium bromide in tetrahydrofuran (1 mol/l, 4.83 ml) was added dropwise. The mixture was stirred for 1 hr 30 min. To the reaction mixture was added 1N aqueous sodium hydroxide solution (6 ml) and tetrahydrofuran (20 ml) was further added, and the mixture was stirred and filtered. The filtrate was washed with saturated brine and dried over anhydrous sodium sulfate, and the solvent was evaporated. The obtained residue was purified by column chromatography (Yamazen HI-FLASH™ COLUMN size 2 L, elution solvent: hexane/ethyl acetate) to give the title compound (192 mg).

reactant | 5-(tert-Butyldimethylsilanyloxymethyl)-pyridine-2-carbonitrile | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)C#N | C13H20N2OSi
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | sodium hydroxide | 1N, 6 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mol/l, 4.83 ml | O1CCCC1 | C4H8O
catalyst | titanium tetraisopropoxide | 0.62 ml | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-[5-(tert-butyldimethylsilanyloxymethyl)pyridin-2-yl]cyclopropylamine | 192 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=CC(=NC1)C1(CC1)N | C15H26N2OSi
